US04221915
Red phosphorous (180 mg) and iodine (60 mg) were added to acetic acid (2.85 ml), and the mixture was stirred for 30 min. A solution of water (60 mg) and α-methoxy-2-thiopheneacetic acid (860 mg, 5 mmol) in acetic acid (1.5 ml) was added to this mixture and the resulting mixture was heated under reflux for 2 hr. with vigorous stirring. After cooling to room temperature, water and ethyl acetate were added thereto. After filtering off the precipitate by the use of celite, the organic layer was separated. It was washed with saturated aqueous solution of sodium chloride and dried with anhydrous magnesium sulfate. After filtration, the solution was concentrated under a reduced pressure, and the crystals which remained were recrystallized from ethyl acetate:n-hexane to give 2-thiopheneacetic acid (610 mg) melting at 62° C. (Literature value: 62°-65° C.).

reactant | water | 60 mg | O | H2O
reactant | α-methoxy-2-thiopheneacetic acid | 5 mmol, 860 mg | COC(C(=O)O)C=1SC=CC1 | C7H8O3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
catalyst | iodine | 60 mg | II | I2
solvent | acetic acid | 2.85 ml | C(C)(=O)O | C2H4O2
product | 2-thiopheneacetic acid | 610 mg, Yield: 86% | S1C(=CC=C1)CC(=O)O | C6H6O2S
